US04571423
Production of 2-(2-naphthoyl)aminopyrrolo(2,3-d)pyrimidin-4-one
Using 2-aminopyrrolo(2,3-d)pyrimidin-4-one and 2-naphthoyl chloride, the above-identified compound is produced by the same procedure as Reference Example 2.

reactant | 2-aminopyrrolo(2,3-d)pyrimidin-4-one | NC1=NC(C=2C(=N1)N=CC2)=O | C6H4N4O
reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 2-(2-naphthoyl)aminopyrrolo(2,3-d)pyrimidin-4-one | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=NC(C=2C(=N1)N=CC2)=O | C17H10N4O2
